US07855290B2
N-(3-Fluoro-4-{[2-({[3-(hydroxymethyl)azetidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (297 mg) was dissolved in tetrahydrofuran (8.0 ml) under a nitrogen atmosphere, and triethylamine (0.293 ml) and phenyl chloroformate (0.193 ml) were added dropwise at room temperature in this order, followed by stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (8.0 ml). This solution was added to a mixture of a crude product of 3-(hydroxymethyl)azetidine trifluoroacetate (corresponds to 2.58 mmol) and triethylamine (2.0 ml), followed by stirring at room temperature for 11 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:2, ethyl acetate, ethyl acetate:methanol=50:1, then 20:1). Fractions containing the target compound were concentrated. To the resultant residue (159.4 mg) was added diethyl ether:heptane=1:2 to suspend a solid. The solid was collected by filtration and washed with heptane. This was dried under aeration to provide the titled compound as white powder (143.2 mg, 38.1%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 297 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H18F2N4O3
reactant | triethylamine | 0.293 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.193 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-(hydroxymethyl)azetidine trifluoroacetate | 2.58 mmol | FC(C(=O)O)(F)F.OCC1CNC1
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
product | N-(3-Fluoro-4-{[2-({[3-(hydroxymethyl)azetidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 143.2 mg, 38.1% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N1CC(C1)CO)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C27H25F2N5O5
